US08222248B2
A suspension of 4-[(E)-2-(2,6-dichloro-4-morpholin-4-yl-phenyl)-vinyl]-3-nitrobenzoic acid methyl ester (1.25 g, 2.86 mmol) in triethylphosphite (10 mL) was heated at 160° C. for 1 h. The mixture was concentrated under reduced pressure and the residue was triturated to afford 2-(2,6-dichloro-4-morpholin-4-yl-phenyl)-1H-indole-6-carboxylic acid methyl ester as a light yellow solid. 1H NMR (400 MHz, DMSO-d6) δ 11.72 (d, J=1.52 Hz, 1H), 8.02 (d, J=1.01 Hz, 1H), 7.64 (s, 2H), 7.15 (s, 2H), 6.53 (dd, J=1.96, 0.82 Hz, 1H), 3.86 (s, 3H), 3.70-3.76 (m, 4H), 3.25-3.30 (m, 4H). MS (m/z) 405.1 (M+1).

reactant | 4-[(E)-2-(2,6-dichloro-4-morpholin-4-yl-phenyl)-vinyl]-3-nitrobenzoic acid methyl ester | 2.86 mmol, 1.25 g | COC(C1=CC(=C(C=C1)\C=C\C1=C(C=C(C=C1Cl)N1CCOCC1)Cl)[N+](=O)[O-])=O | C20H18Cl2N2O5
solvent | triethylphosphite | 10 mL | C(C)OP(OCC)OCC | C6H15O3P
product | 2-(2,6-dichloro-4-morpholin-4-yl-phenyl)-1H-indole-6-carboxylic acid methyl ester | COC(=O)C1=CC=C2C=C(NC2=C1)C1=C(C=C(C=C1Cl)N1CCOCC1)Cl | C20H18Cl2N2O3
